US07511033B2
3′-(8-Methyl-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-4-sulfonic acid amide
The title compound was prepared from 4-(3-bromo-phenyl)-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one (Example B.1) (200 mg, 0.50 mmol) and commercially available 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzenesulfonamide [CAS-no. 214360-51-7] (170 mg, 0.60 mmol) according to the general procedure II. Obtained as a white solid (165 mg, 69%). MS (ISP) 473.9 [(M+H)+]; mp>260° C.

reactant | 4-(3-bromo-phenyl)-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 0.50 mmol, 200 mg | BrC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)C)C(F)(F)F | C17H12BrF3N2O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzenesulfonamide | 0.60 mmol, 170 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)S(=O)(=O)N)C | C12H18BNO4S
product | 3′-(8-Methyl-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-4-sulfonic acid amide | CC=1C(=CC2=C(N=C(CC(N2)=O)C=2C=C(C=CC2)C2=CC=C(C=C2)S(=O)(=O)N)C1)C(F)(F)F | C23H18F3N3O3S
